US05498786
Either of the diastereomeric salts so formed may then be reacted with a mineral or organic acid (e.g., sulfuric or acetic acid) in an inert solvent such as ethylacetate, water, acetone or toluene, preferably ethyl acetate, to yield the pure enantiomer of 2-hydroxydecanoic acid having the same stereochemistry at the carbon alpha to the carbonyl group (e.g., VII→VIII in scheme 2). The reaction temperature may range from about -78° C. to about 100° C., but is preferably about room temperature. Either of the resulting pure enantiomers of 2-hydroxydecanoic acid can then be converted into the pure enantiomer of methyl-2-hydroxydecanoate having the same stereochemistry at the carbon alpha to the carbonyl group by treatment with methanol and hydrochloric acid at a temperature from about -78° C. to about 100° C. (e.g., VIII→IX in scheme 2). The solvent may be methanol or another inert, polar, aprotic solvent such as methanol/THF, methanol/methylene chloride or methanol/toluene.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
reactant | acetone | CC(=O)C | C3H6O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-hydroxydecanoic acid | OC(C(=O)O)CCCCCCCC | C10H20O3
